US08497265B2
1-(1-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)piperidin-4-yl)ethanone (100 mg, 0.25 mmol) was dissolved in 10 ml of methanol. This solution was cooled down to 0° C. using an ice bath and sodium tetraborohydride (19 mg, 0.50 mmol) was added in portions. The reaction mixture was stirred for 4 hours at ambient temperature, and then saturated aqueous solution of ammonium chloride (5 mL) was added. The methanol was evaporated off under reduced pressure then the reaction mixture was taken up in ethyl acetate. The organic layer was separated from the aqueous layer. This extraction was repeated one more time and then the organic layers were combined and dried over magnesium sulphate, followed by concentrating under reduced pressure. The residue was purified by column chromatography on silica gel to give (racemic mixture) 1-(1-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)piperidin-4-yl)ethanol (75 mg, 0.19 mmol, 75% yield). ESI-MS (M+1): 406 calc. for C23H27N5O2 405.

reactant | 1-(1-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)piperidin-4-yl)ethanone | 0.25 mmol, 100 mg | N1=C(C=CC2=CC=CC=C12)N1CC(C1)OC=1C(=NC=CN1)N1CCC(CC1)C(C)=O | C23H25N5O2
reactant | sodium tetraborohydride | 0.50 mmol, 19 mg | [BH4-].[BH4-].[BH4-].[BH4-].[Na+].[Na+].[Na+].[Na+]
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | methanol | 10 ml | CO | CH4O
product | 1-(1-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)piperidin-4-yl)ethanol | 0.19 mmol, 75 mg, 75% yield | N1=C(C=CC2=CC=CC=C12)N1CC(C1)OC=1C(=NC=CN1)N1CCC(CC1)C(C)O | C23H27N5O2
